US07691882B2
1-Benzyloxy-4-((E)-2-nitro-vinyl)-benzene
To a mixture of 4-benzyloxy benzaldehyde (50 g, 0.24 mol) and acetic acid (200 mL) were added nitromethane (64 mL, 1.2 mol) and ammonium acetate (36 g, 0.47 mol), which was stirred for 90 minutes at 100° C. The reaction mixture was cooled to room temperature, and water (1 L) was added at the same temperature. The deposited solids were filtered to obtain the title compound (60 g).

reactant | 4-benzyloxy benzaldehyde | 0.24 mol, 50 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
reactant | nitromethane | 1.2 mol, 64 mL | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 0.47 mol, 36 g | C(C)(=O)[O-].[NH4+]
solvent | water | 1 L | O | H2O
product | 1-Benzyloxy-4-((E)-2-nitro-vinyl)-benzene | 60 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)\C=C\[N+](=O)[O-] | C15H13NO3
